US04732985
1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetone
A solution of 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-propyne (1.06 g), mercuric sulphate (0.10 g) and concentrated sulphuric acid (0.2 ml) in a mixture of water (20 ml) and dioxane (20ml) was heated at 60° for 2 hours and then evaporated. The residue was partitioned between ether and water and the organic layer washed with saturated aqueous sodium chloride solution and water, dried over sodium sulphate and evaporated to give the title compund (0.93 g), m.p. 119°-121°. This material was confirmed spectroscopically to be idetnical to the product of preparation 6.

reactant | 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-propyne | 1.06 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#C)C(=O)OCC | C21H21Cl2NO5
reactant | sulphuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | dioxane | 20ml | O1CCOCC1 | C4H8O2
product | 1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetone | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)C)C(=O)OCC | C21H23Cl2NO6
